US08258122B2
b) 5-Fluoro-2-hydrazinyl-4-iodopyridine
A solution of 2,5-difluoro-4-iodopyridine (1.35 g, 5.602 mmol) in ethanol (7 mL) was treated with hydrazine hydrate (2.75 mL) and the mixture was stirred at 50° C. for 19 hours. The mixture was concentrated in vacuum and the resulting solid triturated with water, filtered, rinsed with more water and dried to yield the title compound (0.57 g, 35%) that was used in the following steps without further purification.

reactant | 2,5-difluoro-4-iodopyridine | 5.602 mmol, 1.35 g | FC1=NC=C(C(=C1)I)F | C5H2F2IN
reactant | hydrazine hydrate | 2.75 mL | O.NN
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 5-Fluoro-2-hydrazinyl-4-iodopyridine | 0.57 g, 35% | FC=1C(=CC(=NC1)NN)I | C5H5FIN3
